US05041619
264 g (2 mol) of dimethyl malonate, 961 g (8 mol) of trimethyl orthoacetate and 1 g of catalyst from Example 1 were put into the pressure apparatus described in Example 2. The mixture was heated to 130° C., whereupon an internal pressure of 1.5 bar developed. 100 g of acetic anhydride were then metered in over the course of 12 hours, the low-boiling component was distilled off at a head temperature of 82° to 87° C. and the reaction temperature was gradually increased to 160° C. After complete distillation of the low-boiling component, the mixture was cooled, the excess trimethyl orthoacetate distilled off at reduced pressure and the crude product was fractionated through a short column at a head temperature of 110° C. under a high vacuum of 0.3 mbar. In this way methyl 2-carbomethoxy-3-methoxy-2-butenoate was obtained in a yield of 77.5% and methyl 2-carbomethoxy-3,3-dimethoxy-butanoate was obtained in a yield of 11% of the theoretical yield.

reactant | dimethyl malonate | 2 mol, 264 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | trimethyl orthoacetate | 8 mol, 961 g | C(C)(OC)(OC)OC | C5H12O3
reactant | acetic anhydride | 100 g | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 2-carbomethoxy-3-methoxy-2-butenoate | yield of 77.5% | C(=O)(OC)C(C(=O)OC)=C(C)OC | C8H12O5
